Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admission for cycle 1 of dacogen
 
Major Surgical or Invasive Procedure:
___ placement ___

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a history of stage IIA 
breast cancer
___ left mastectomy and currently on Tamoxifen and
also with history of relapsed AML status post allogeneic RIC MRD
stem cell transplant for intermediate risk AML in CR1 after 
being
in remission for ___ years. He was re-induced with MEC upon 
relapse
(___). BM aspirate and biopsy repeated with recovery 
of
counts post-re-induction with MEC showed no morphologic evidence
of leukemia. After extensive discussion with patient and family,
patient underwent DLI from sister on ___. In ___,
he relapsed post DLI with 12% myeloblasts. He is now admitted 
for
Cycle 1 of Decitabine (x10 doses) induction therapy.

ROS: Overall, he reports feeling well. No fevers, chills, 
rigors,
chest pain, palpitations, headache, dizziness, lightheadedness,
abdominal pain, nausea, vomiting, diarrhea, constipation, new
rashes/bruising, ___ edema or pain. Does endorse clear runny nose
this is not a new symptom. Appetite is good. No recent weight
loss, tremors, numbness on fingers/toes. 

All other ROS negative. 

 
Past Medical History:
PAST MEDICAL HISTORY:
AML, Intermediate risk (normal cytogenetics, FLT3/NPM1 neg, 
diagnosed in ___. Enrolled in ___ 2906, received induction 

with 7+3 with ___, consolidation with midAC x 1. MRD AlloSCT 
with reduced intensity flu/bu on ECOG 2906, d0 ___. 
Received 4.62 x 10^6 CD34+/kg cells.
Male Breast Cancer s/p Mastectomy (___)
Aspergillosis (___)
Prostatitis (___) 
Seizure vs. Syncope ___ all negative
Lyme Disease (___)
 

 
Social History:
___
Family History:
Mr. ___ has one brother with history of stroke. His father 
died of lung cancer at age ___. His mother died at age ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: TC 97.6 PO 119/56 95 18 99%RA 
WT: 187 lbs. 
HEAD/NECK: No facial rash. Bilateral conjunctiva normal. No
discharge. Oral mucosa with moist mucous membranes. No lichenoid
changes noted.
CARDIAC: S1/S2. No S3 or S4, regular rate and rhythm.
RESPIRATORY: Lung sounds bilateral are clear to auscultation. 
No wheezes, crackles, or diminished breath sounds 
ABDOMEN: Positive bowel sounds, soft, non-tender; no appreciable
organomegaly and palpable masses
EXTREMITIES: Bilateral upper and lower extremities w/o edema
SKIN: No stiffness or tremors
ACCESS: RUE PICC in place.

DISCHARGE PHYSICAL EXAM:
VS: TC 97.8 PO 102 / 70 76 18 95 Ra 
WT: 182.9 
HEAD/NECK: No facial rash. Bilateral conjunctiva normal. No
discharge. Oral mucosa with moist mucous membranes. No lichenoid
changes noted.
CARDIAC: S1/S2. No S3 or S4, regular rate and rhythm.
RESPIRATORY: Lung sounds bilateral are clear to auscultation. 
No wheezes, crackles, or diminished breath sounds 
ABDOMEN: Positive bowel sounds, soft, non-tender; no appreciable
organomegaly and palpable masses
EXTREMITIES: Bilateral upper and lower extremities w/o edema
SKIN: No stiffness or tremors
ACCESS: RUE ___ in place.
 
Pertinent Results:
___ 12:00AM BLOOD WBC-7.3 RBC-3.61* Hgb-12.4* Hct-36.2* 
MCV-100* MCH-34.3* MCHC-34.3 RDW-13.9 RDWSD-51.2* Plt Ct-46*
___ 08:45AM BLOOD WBC-5.3 RBC-4.02* Hgb-13.8 Hct-40.2 
MCV-100* MCH-34.3* MCHC-34.3 RDW-14.1 RDWSD-51.4* Plt Ct-74*
___ 12:00AM BLOOD Neuts-64 Bands-1 Lymphs-17* Monos-3* 
Eos-4 Baso-0 ___ Myelos-0 Blasts-11* NRBC-1* Other-0 
AbsNeut-4.75 AbsLymp-1.24 AbsMono-0.22 AbsEos-0.29 AbsBaso-0.00*
___ 08:45AM BLOOD Neuts-66 Bands-0 Lymphs-17* Monos-2* 
Eos-2 Baso-0 ___ Metas-1* Myelos-0 Blasts-12* Other-0 
AbsNeut-3.50 AbsLymp-0.90* AbsMono-0.11* AbsEos-0.11 
AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Spheroc-1+ Ovalocy-1+ 
Schisto-OCCASIONAL Tear Dr-1+
___ 08:45AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-2+ Microcy-NORMAL Polychr-1+ Tear 
Dr-OCCASIONAL
___ 12:00AM BLOOD Plt Ct-46*
___ 08:45AM BLOOD Plt Smr-VERY LOW Plt Ct-74*
___ 12:00AM BLOOD Glucose-98 UreaN-17 Creat-1.1 Na-137 
K-3.7 Cl-102 HCO3-25 AnGap-14
___:45AM BLOOD Glucose-114*
___ 12:00AM BLOOD Albumin-3.8 Calcium-8.4 Phos-2.7 Mg-2.2 
UricAcd-5.4
___ 08:45AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.2
___ 12:00AM BLOOD ALT-25 AST-28 LD(LDH)-424* AlkPhos-64 
TotBili-<0.2
___ 08:45AM BLOOD ALT-29 AST-32 LD(LDH)-440* AlkPhos-79 
TotBili-<0.___SSESSMENT AND PLAN: Mr. ___ is a ___ gentleman with 
history of stage IIA breast cancer ___ left 
mastectomy and currently on Tamoxifen and also relapsed AML 
status post allogeneic RIC MRD stem cell transplant relapsed
after ___ years, re-induced with MEC, s/p DLI in ___ who 
presents for cycle 1 of Decitabine

#Relapsed AML: relapse after being in remission for ___ years post 
allogeneic transplant. AML relapse was diagnosed on ___ with 
appearance of D835H mutation, normal cytogenetics and 97% donor 
T-cells on peripheral blood chimerism. Re-induced
with MEC (___), s/p DLI from sister on ___ and 
now presenting for cycle 1 of Decitabine (x 10D); received three 
doses while in-house with plan to receive remaining doses 
outpatient. Has appointment with Dr. ___ on ___
-Decitabine 41 mg IV Days 1, 2, 3, 4, 5, 6, 7, 8, 9 and 10. 
___, 
/___ and ___
(20 mg/m2); Infuse over 1 hour
-continue allopurinol given peripheral blasts

#History of Pulmonary Aspergillus prior to transplant, B/l GGO 
(___) and COP (___): remote history, refer to Dr. ___ 
___ ___ for details, remains on voriconazole 150mg BID. No 
respiratory complaints this hospital course

#Stage II Invasive Breast Cancer (ER/PR pos, HER-2 neg, BrCA 
negative): s/p Left mastectomy and excisional LN biopsy. 
Followed by Dr. ___. Started Tamoxifen on ___, 
continues on this regimen [20mg PO daily]. 

#Dizziness/Orthostatic Symptoms: (resolved). Noted during 
admission from ___. Differential includes autonomic 
neuropathy ___ chemotherapy vs. medication side effect (reported 
on voriconazole PI but incidence not included). 
Endocrine and cardiac sources less likely based on normal ___ 
stem (___), normal TSH (___), and normal LVEF 
(___). The role of anemia at that time was also considered 
as patient received PRBCs transfusions for support. Patient was
discharged on Midodrine 7.5mg BID and 10mg QPM and recently 
tapered off medication on ___. No symptoms of orthostasis 
this hospital course. 

#ID Prophylaxis: acyclovir 400mg TID and voriconazole 150mg BID 

ACCESS: ___ placed ___
CODE STATUS: Full Code (presumed)
EMERGENCY CONTACT: ___, Wife, ___ 
DISPO: Discharged ___. RTC ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
2. Multivitamins 1 TAB PO DAILY 
3. Tamoxifen Citrate 20 mg PO QAM 
4. Vitamin D 1000 UNIT PO DAILY 
5. Acyclovir 400 mg PO TID 
6. Voriconazole 150 mg PO Q12H 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Decitabine 41 mg IV Days 1, 2, 3, 4, 5, 6, 7, 8, 9 and 10. 
___, 
___ and ___
 (20 mg/m2 (Weight used: Actual Weight = 84.69 kg  BSA: 2.05 
m2)) 
you will receive daily injections at the clinic until you 
complete 10 doses 
3.  Lorazepam 0.5 mg PO Q6H:PRN anxiety/nausea/vomiting 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
4.  Acyclovir 400 mg PO TID  
5.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H  
6.  Multivitamins 1 TAB PO DAILY  
7.  Tamoxifen Citrate 20 mg PO QAM  
8.  Vitamin D 1000 UNIT PO DAILY  
9.  Voriconazole 150 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Relapsed AML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive the first cycle of Decitabine 
(Dacogen). You received 3 doses and tolerated them well and will 
be discharged to complete remaining doses outpatient. Refer 
below for your outpatient appointment with Dr. ___.

It was a pleasure taking care of you.

Sincerely,

Your ___ TEAM
 
Followup Instructions:
___